US07132416B2
tert-Butyl 4-methylleucinate
4-Methylleucine (500 mg, 3.44 mmol) was suspended in 10 ml t-butyl acetate. Perchloric acid (0.2 ml, 3.49 mmol) was added and the flask was stopped with a septum and stirred over night. Analysis was performed using TLC DCM:MeOH, 9:1; staining with a ninhydrine/EtOH solution). The solution was poured into a flask containing 30 ml EtOAc and 30 ml 5% Na2CO3. The aq-layer turned acidic and 2M NaOH was added until pH was approximately 7. The phases were separated and the aq-phase was washed with 2×30 ml EtOAc. The combined organic phases were washed with brine, dried with Na2SO4 and evaporated. A oil was obtained which was co-evaporated with toluene and then with diethyl ether before being placed under vacuum for two days. Mass 665 mg (96% yield). NMR (CDCl3): 1.0 (s, 9H), 1.5 (s, 9H), 1.65–1.95 (m, 2H), 3.82 (t, 1H).

reactant | 4-Methylleucine | 3.44 mmol, 500 mg | CC(C[C@H](N)C(=O)O)(C)C | C7H15NO2
reactant | Perchloric acid | 3.49 mmol, 0.2 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | ninhydrine EtOH | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O.CCO
reactant | Na2CO3 | 30 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaOH | 2M | [OH-].[Na+]
solvent | t-butyl acetate | 10 ml | C(C)(=O)OC(C)(C)C | C6H12O2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
solvent | MeOH | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-methylleucinate | 96% yield | CC(C[C@H](N)C(=O)OC(C)(C)C)(C)C | C11H23NO2
